US07692005B2
A solution of N1,N1-Dimethyl-propane-1,2-diamine (10 mL, 77.4 mmol) in DMF (40 mL) at room temperature was treated with potassium carbonate (15.26 g, 1.5 equiv.) and 1-fluoro-4-nitrobenzene (8.21 mL, 1 equiv.). The reaction mixture was stirred at 110° C. overnight. The reaction mixture was cooled to room temperature, filtered to remove remaining solid potassium carbonate and diluted with CH2Cl2 (500 mL). The reaction mixture was extracted with H2O (3×500 mL) and dried over anhydrous MgSO4. Following filtration and concentration in vacuo the gelatinous red residue was purified by flash silica gel chromatography (CHCl3 to 1:4 MeOH:CHCl3 gradient eluant) to give N1,N1-Dimethyl-N2-(4-nitro-phenyl)-propane-1,2-diamine as a light brown oil (81.4%).

reactant | N1,N1-Dimethyl-propane-1,2-diamine | 77.4 mmol, 10 mL | CN(CC(C)N)C | C5H14N2
reactant | potassium carbonate | 15.26 g, 1.5 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | 1-fluoro-4-nitrobenzene | 8.21 mL, 1 equiv. | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N1,N1-Dimethyl-N2-(4-nitro-phenyl)-propane-1,2-diamine | 81.4% | CN(CC(C)NC1=CC=C(C=C1)[N+](=O)[O-])C | C11H17N3O2
